US05939451
0.30 g (0.001 mol) of 4-amino-N-(2-amino-6-chloro-pyrimidin-4-yl)-benzenesulfonamide and 11 ml (0.1 mol) of benzylamine were dissolved in 15 ml of ethanol and stirred in an autoclave at 130° C. The reaction mixture was freed from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 minutes. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.15 g (41%) of 4-amino-N-(2-amino-6-benzylamino-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p.;221° C. (dec.).

reactant | 4-amino-N-(2-amino-6-chloro-pyrimidin-4-yl)-benzenesulfonamide | 0.001 mol, 0.30 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)N | C10H10ClN5O2S
reactant | benzylamine | 0.1 mol, 11 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(2-amino-6-benzylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.15 g, 41% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC1=CC=CC=C1)N | C17H18N6O2S
